US04895840
N-(3-Phenoxypropyl)benzeneethanamine hydrochloride [1:1]
A mixture of 30 g (0.14 mole) of 3-phenoxypropyl bromide and 16.82 g (0.139 mole) of phenethylamine in 500 ml of absolute ethanol and in the presence of excess triethylamine was refluxed for 18 hr. The solvent was removed in vacuo and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution was dried over magnesium sulfate, and the solvent was removed in vacuo to give an oil. This was dissolved in a mixture of ether and methylene chloride, and the solution was extracted with dilute sulfuric acid and then with dilute sodium hydroxide. The organic solution was treated with an excess of ethereal hydrogen chloride, and 12.43 g (30.68%) of the product precipitated as a white, crystalline solid, mp 196°-197° C.

reactant | 3-phenoxypropyl bromide | 0.14 mole, 30 g | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | phenethylamine | 0.139 mole, 16.82 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | N-(3-Phenoxypropyl)benzeneethanamine hydrochloride | Cl.O(C1=CC=CC=C1)CCCNCCC1=CC=CC=C1 | InChI=1S/C17H21NO.ClH/c1-3-8-16(9-4-1)12-14-18-13-7-15-19-17-10-5-2-6-11-17;/h1-6,8-11,18H,7,12-15H2;1H
